US07560597B2
2′,4′-Dichloro-biphenyl-4-carboxylic acid methoxy-methyl-amide
2′,4′-Dichloro-biphenyl-4-carbonyl chloride was dissolved in chloroform (10 mL) and added dropwise to a chilled solution of N,O-dimethyl hydroxylamine (2.5 g) and triethylamine (7 mL) in chloroform (40 mL). Following addition, the mixture was allowed to warm to room temperature and stirred for a further 30 minutes. The mixture was poured into water and the organic phase separated, washed with water, and dried. Evaporation gave an oil, which was purified by column chromatography (petrol/ethyl acetate) to give a pale yellow oil which slowly crystallised upon standing to give the title compound as a white solid. 13C NMR (CDCl3): δ 33.8, 61.2, 127.3, 128.2, 129.1, 129.9, 132.0, 133.2, 133.5, 134.2, 138.3, 140.5 and 169.5. 1H NMR (CDCl3): δ 3.39 (3H, s), 3.58 (3H, s), 7.26 (2H, m), 7.45 (2H, d, J=8.5 Hz), 7.54 (1H, s) and 8.08 (2H, d, J=8.5 Hz).

reactant | 2′,4′-Dichloro-biphenyl-4-carbonyl chloride | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)C(=O)Cl | C13H7Cl3O
reactant | N,O-dimethyl hydroxylamine | 2.5 g | CNOC | C2H7NO
reactant | triethylamine | 7 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 2′,4′-Dichloro-biphenyl-4-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)Cl)C | C15H13Cl2NO2
